US08198453B2
Step 4: tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate
Hydrogenation of tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate (146 mg, 0.51 mmol) was carried out in MeOH (10 mL), 10% Pd/C (25 mg) under 40 psi of H2 for 2 h. After filtration 114 mg of tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate was obtained, yield 86%. MS ESI+ve m/z 259 (M+H).

reactant | tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | 0.51 mmol, 146 mg | N(=[N+]=[N-])C[C@H](C[C@@H]1COCCC1)NC(OC(C)(C)C)=O | C13H24N4O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | tert-butyl (S)-1-amino-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-ylcarbamate | yield 86% | NC[C@H](C[C@@H]1COCCC1)NC(OC(C)(C)C)=O | C13H26N2O3
